US06380387B1
The solid N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester (1.4 mmol, 0.705 g) was treated with 4N hydrochloric acid in dioxane (20 mmol, 5 mL) at room temperature and the solution was stirred for 2 h as a white precipitate was formed. The mixture was diluted with diethyl ether and dichloromethane and the solids were collected by filtration washing with diethyl ether. After air drying, 0.63 g (99% yield) of 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester hydrochloride was obtained as an amorphous gray solid. ES-HRMS m/e calcd for C20H26N3O6 (M+H) 404.1816, found 404.1818.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester | 1.4 mmol, 0.705 g | C(C)(=O)OC(C)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C25H33N3O8
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester hydrochloride | 0.63 g, 99% yield | Cl.C(C)(=O)OC(C)OC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | InChI=1S/C20H25N3O6.ClH/c1-11-17(18(25)23(5)20(27)22(11)4)15-8-6-14(7-9-15)10-16(21)19(26)29-13(3)28-12(2)24;/h6-9,13,16H,10,21H2,1-5H3;1H/t13?,16-;/m0./s1
